US04731472
Step C: (5,6-Dichloro-2,3,9,9a-tetrahydro-3-oxo-9a-propyl-1H-fluoren-7-yl)ethanimidamide hydrochloride
(5,6-Dichloro-2,3,9,9a-tetrahydro-3-oxo-9a-propyl-1H-fluoren-7-yl)-acetonitrile (3.34 g, 10 mMole) is dissolved in chloroform (40 ml) and ethanol (650 mg, 10.9 mMole) and the mixture cooled to 0° C. The mixture is stirred and saturated with hydrogen chloride gas. After standing for 16 hours, the mixture is basified by the dropwise addition of 10 normal sodium hydroxide. The resultant chloroform solution of the imino ester free base is washed with water, dried over K2CO3 and the chloroform removed by evaporation in vacuo. The residue consisting of the imino ether is dissolved in ethanol (30 ml) and water (5 ml) then ammonium chloride (700 ml, 13 mMole) is added and the mixture stirred at room temperature for 4 hours. The mixture is filtered to remove the excess ammonium chloride and the filtrate evaporated in vacuo. Treatment with acetone gave the product which was recrystallized from a mixture of ethanol and diethyl ether.

reactant | (5,6-Dichloro-2,3,9,9a-tetrahydro-3-oxo-9a-propyl-1H-fluoren-7-yl)-acetonitrile | 10 mMole, 3.34 g | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)CC#N)CCC)=O | C18H17Cl2NO
reactant | ethanol | 10.9 mMole, 650 mg | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ammonium chloride | 13 mMole, 700 ml | [Cl-].[NH4+]
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 5 ml | O | H2O
product | (5,6-Dichloro-2,3,9,9a-tetrahydro-3-oxo-9a-propyl-1H-fluoren-7-yl)ethanimidamide hydrochloride | Cl.ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)CC(N)=N)CCC)=O | InChI=1S/C18H20Cl2N2O.ClH/c1-2-4-18-5-3-12(23)8-13(18)15-11(9-18)6-10(7-14(21)22)16(19)17(15)20;/h6,8H,2-5,7,9H2,1H3,(H3,21,22);1H
